US04149005
Example 1 was repeated using the following amounts of reagents: 5 g (0.031 mole) of 1-phenyl-3-amino-2-pyrazoline were suspended in 25 ml of ethanol and 2 ml of H2O, under addition of 0.1 g (0.001 mole) of CuCl and 0.064 g (0.001 mole) of Cu, under an oxygen head. Oxidation lasted about 3 hours. 3.9 g of 1-phenyl-3-aminopyrazole were obtained.

reactant | 1-phenyl-3-amino-2-pyrazoline | 0.031 mole, 5 g | C1(=CC=CC=C1)N1N=C(CC1)N | C9H11N3
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | H2O | 2 ml | O | H2O
catalyst | CuCl | 0.001 mole, 0.1 g | Cl[Cu]
product | 1-phenyl-3-aminopyrazole | 3.9 g | C1(=CC=CC=C1)N1N=C(C=C1)N | C9H9N3
